US06787550B1
Description 10: 2,5-Dimethoxyterephthalic acid monomethyl ester
A suspension of dimethyl 2,5-dimethoxyterephthalate (4 g, 15.7 mmol), prepared as in Description 9, in methanolic KOH (0.86 g of KOH in 100 ml MeOH) was refluxed for 3 h. The solution was cooled and the solvent removed under vacuum. The residue was treated with dilute HCl and the solid filtered off. The crude mixture was purified by column chromatogrphy using 1:1 ethyl acetate/hexane as a solvent obtaining 1.72 g of the title compound (yield 44.7%), mp=123-124° C.

reactant | dimethyl 2,5-dimethoxyterephthalate | 15.7 mmol, 4 g | COC1=C(C(=O)OC)C=C(C(=C1)C(=O)OC)OC | C12H14O6
solvent | KOH | 100 ml, 0.86 g | [OH-].[K+]
product | 2,5-Dimethoxyterephthalic acid monomethyl ester | 1.72 g, yield 44.7% | COC(C1=C(C=C(C(=O)O)C(=C1)OC)OC)=O | C11H12O6
